US06657060B2
In analogy to example 12c), by heating (E)-2-[2-(2,4-dimethoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (0.33 g, 1.22 mmol) in POCl3 (2.24 ml, 24.5 mmol) at 130° C. for 4.5 h there was obtained 4-chloro-2-[2-(2,4-dimethoxy-phenyl)-vinyl]-6-methyl-pyrimidine (0.21 g, 60%) as a light yellow solid. EI mass spectrum, m/e: 290 (M calculated for C15H15ClN2O2: 290).

reactant | (E)-2-[2-(2,4-dimethoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 1.22 mmol, 0.33 g | COC1=C(C=CC(=C1)OC)/C=C/C1=NC(=CC(=N1)O)C | C15H16N2O3
reactant | POCl3 | 24.5 mmol, 2.24 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-[2-(2,4-dimethoxy-phenyl)-vinyl]-6-methyl-pyrimidine | 0.21 g, 60% | ClC1=NC(=NC(=C1)C)C=CC1=C(C=C(C=C1)OC)OC | C15H15ClN2O2
